US07247734B2
A solution of sodium borohydride (1.85 g, 49 mmol) in water (30 ml) was added to an ice cooled solution of carbonic acid 2-benzoyl-5-ethoxycarbonyloxy-phenyl ester ethyl ester (3.6 g, 10 mmol) in THF (30 ml). The mixture was stirred for ˜60 mins. at 0° C., and for ˜60 hrs. at room temperature, to give a pale red suspension. Water (150 ml) was added and the mixture extracted with diethyl ether (150 ml). The extracts were washed with water (2×100 ml) and saturated aqueous sodium chloride solution (50 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to give a pale yellow gum. The gum was taken up in aqueous sodium hydroxide (20 ml, 10%), and the solution heated under reflux for ˜60 mins. The solution was allowed to cool and acidified with hydochloric acid (5 ml, 37%). The mixture was extracted with diethyl ether (50 ml). The extracts were washed with water (3×40 ml) and saturated aqueous sodium chloride solution (30 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to give 4-benzyl-benzene-1,3-diol as a dark red gum, (2.1 g).

reactant | sodium borohydride | 49 mmol, 1.85 g | [BH4-].[Na+]
reactant | carbonic acid 2-benzoyl-5-ethoxycarbonyloxy-phenyl ester ethyl ester | 10 mmol, 3.6 g | C(C)OC(OC1=C(C=CC(=C1)OC(=O)OCC)C(C1=CC=CC=C1)=O)=O | C19H18O7
reactant | hydochloric acid | 5 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | Water | 150 ml | O | H2O
product | 4-benzyl-benzene-1,3-diol | C(C1=CC=CC=C1)C1=C(C=C(C=C1)O)O | C13H12O2
